US04172898
A solution of 3,4-dichloroaniline (200 g., 1.23 mole), cycloheptene oxide (400 ml.), and concentrated HCl (2 ml.) is heated at reflux temperature for seven (7) days. The unreacted epoxide is evaporated at 60° C. and the residue is treated with excess ethereal HCl, and a syrup results. This is washed with 1000 ml. ether. The residue is crystallized and recrystallized from methanol/ether (1/5,5, v/v ) to give trans-3,4-dichloro-N-(2-hydroxycycloheptyl)aniline, hydrochloride salt.

reactant | 3,4-dichloroaniline | 1.23 mole, 200 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | HCl | 2 ml | Cl | ClH
reactant | cycloheptene oxide | 400 ml | C12C(CCCCC1)O2 | C7H12O
product | trans-3,4-dichloro-N-(2-hydroxycycloheptyl)aniline, hydrochloride salt | Cl.ClC=1C=C(N[C@H]2[C@@H](CCCCC2)O)C=CC1Cl | InChI=1S/C13H17Cl2NO.ClH/c14-10-7-6-9(8-11(10)15)16-12-4-2-1-3-5-13(12)17;/h6-8,12-13,16-17H,1-5H2;1H/t12-,13-;/m1./s1
